US05637783
Hydrogenation of Isoprene-Butadiene Random Copolymer
Part of the polymeric solution (195 g) described in Example V was introduced into a 0.5 L Fischer-Porter reactor. The total amount of polymer added to the reactor was 31.4 g which represents 0.540 moles of butadiene unsaturation. The hydrogenation catalyst was prepared by adding 35.1 mL of a 1.7M triethylaluminum solution (59.6 mmol) to a solution of 19.9 mmol of cobalt octoate in 153.0 mL (119.2 g) of cyclohexane. The final catalyst solution was 0.1M in cobalt and had an aluminum-cobalt ratio of 3:1. A portion of this catalyst (5.0 mL, 0.50 mmol Co) was syringed into the reactor which had been purged/vented three times with nitrogen, then hydrogen, and pressured to 55 psig with hydrogen. The reaction exothermed to 34° C. and was maintained at 30°-35° C. The progress of the hydrogenation was monitored by infrared (FTIR) analysis of hourly samples. After 4 hours an additional 4 mL (0.40 mmol) of catalyst was added. The reaction was terminated after 6.25 h, when the IR showed minimal trans unsaturation (968 cm-1) and complete disappearance of vinyl (910, 990 cm-1). The catalyst was then removed by washing the polymer in the same type of reactor described in Example I with 300 mL of a 0.5M citric acid aqueous isopropanol (2:1 water-IPA) solution. The mixture was vigorously mixed at 70° C. for 20 minutes and allowed to settle. The pink aqueous layer was removed and the entire wash step was repeated using an aqueous isopropanol (2:1 water-IPA) solution. After addition of 0.2 g of Irganox 1076, the polymer was isolated by removing the volatiles under reduced pressure. Gel permeation chromatography of a sample revealed little change in the polydispersity index of the polymer had occurred as a result of hydrogenation.

reactant | butadiene | 0.540 moles | C=CC=C | C4H6
reactant | triethylaluminum | 59.6 mmol, 1.7M | C(C)[Al](CC)CC
reactant | hydrogen | [H][H] | H2
solvent | cyclohexane | 153.0 mL, 119.2 g | C1CCCCC1 | C6H12
solvent | cobalt | [Co] | Co
catalyst | cobalt octoate | 19.9 mmol | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2]
catalyst | aluminum-cobalt | [Co].[Al]
product | Isoprene Butadiene | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
